US04505913
In a manner analogous to that described in Example 1, the reaction of 5-(N-cyclohexylsulfamoyl)-isatoic anhydride with 1-methylpiperazine yields 5-(N-cyclohexylsulfamoyl)-anthranilic acid (4-methyl)-piperazide with a melting point of 167°-168° (from ethanol). The hydrochloride melts at 263°-264°.

reactant | 5-(N-cyclohexylsulfamoyl)-isatoic anhydride | C1(CCCCC1)NS(=O)(=O)C1=CC=C2C(C(=O)OC(N2)=O)=C1 | C14H16N2O5S
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | ethanol | C(C)O | C2H6O
product | 5-(N-cyclohexylsulfamoyl)-anthranilic acid (4-methyl)-piperazide | CN1CCN(CC1)C(C=1C(N)=CC=C(C1)S(NC1CCCCC1)(=O)=O)=O | C18H28N4O3S
